US03994939
6-Amino-2,2-dimethyl-3-(5-tetrazolyl)penam
To a slurry of dry acetone (5 ml.) and 6-triphenylmethylamino-2,2-dimethyl-3-(5-tetrazolyl)penam (483 mg., 1.0 mmole) at room temperature is added p-toluenesulfonic acid monohydrate (209 mg., 1.1 mmole). The resulting solution is stirred for 10 minutes and then ether (30 ml.) is added over a 5 minute period. The mixture is stirred for 10 minutes after which the solvent is decanted from the solid which separates. The solid is dissolved in tetrahydrofuran (30 ml.) and placed on a column (300 × 6 mm.) packed with 10 g. of Florisil (synthetic magnesium silicate). The column is washed with tetrahydrofuran until a total of 125 ml. is collected. The eluate is concentrated to dryness under reduced pressure at 40° C. to give 210 mg. of solid. The solid is slurried in ether (30 ml.), filtered, washed with ether and air-dried. Yield = 121 mg. (50%). The NMR spectrum (in DMSO-d6) shows absorption bands at 1.08 ppm, (2s, 3H each, C-2 methyls), 4.60 + 5.52 (2d, J=4.0 Hz, 2H, H5 + H6), 5.10 (s, 1H H3) and 5.88 (s, 3H, NH3)ppm. (s, 3H), 1.59ppm (s,3H), 4.60 ppm (d,1H), 5.52 ppm (d,1H), 5.10ppm (s, 1H), and 5.88 ppm (s,3H).

reactant | acetone | 5 ml | CC(=O)C | C3H6O
reactant | 6-triphenylmethylamino-2,2-dimethyl-3-(5-tetrazolyl)penam | 1.0 mmole, 483 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)NC1[C@@H]2N(C(C(S2)(C)C)C2=NN=NN2)C1=O | C27H26N6OS
reactant | p-toluenesulfonic acid monohydrate | 1.1 mmole, 209 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | ether | 30 ml | CCOCC | C4H10O
solvent | ether | 30 ml | CCOCC | C4H10O
product | 6-Amino-2,2-dimethyl-3-(5-tetrazolyl)penam | NC1[C@@H]2N(C(C(S2)(C)C)C2=NN=NN2)C1=O | C8H12N6OS
